US06231833B1
(7R,9aS)-7-(4-Fluorophenoxy)methyl-2-(5-chloropyridin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine
The title compound was prepared according to Preparation 11 using 2,5-dichloropyridine and (7R,9aS)-7-(4-fluorophenoxy)methyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine (Preparation 8). mp (—HCl) 237-238° C. 13C NMR (base, CDCl3): δ27.0, 29.1, 36.4, 45.3, 50.9, 54.6, 58.7, 60.5, 71.6, 107.7, 115.36, 115.47, 115.60, 115.90, 120.1, 137.1, 146.3, 155.1, 155.6, 157.6, 158.8. HRMS calcd for C20H23ClFN3O: 375.1514; found, 375.1544.

reactant | 2,5-dichloropyridine | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | (7R,9aS)-7-(4-fluorophenoxy)methyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | FC1=CC=C(OC[C@@H]2CC[C@@H]3N(CCNC3)C2)C=C1 | C15H21FN2O
reactant | HCl | Cl | ClH
product | (7R,9aS)-7-(4-Fluorophenoxy)methyl-2-(5-chloropyridin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | FC1=CC=C(OC[C@@H]2CC[C@@H]3N(CCN(C3)C3=NC=C(C=C3)Cl)C2)C=C1 | C20H23ClFN3O
